US08242133B2
To a mixture of 1.96 g of N-[5-(trifluoromethoxy)-2-hydroxyphenyl]isonicotinamide, 35 ml of tetrahydrofuran and 1.73 g of triphenylphosphine, a mixture of 1.26 g of diethyl azodicarboxylate and 5 ml of THF was added dropwise at room temperature. The resultant mixture was stirred at room temperature for two hours. To the mixture, 1.73 g of triphenylphosphine and 3.15 g of 40% toluene solution of diethyl azodicarboxylate were added and stirred for one hour. Furthermore, to the mixture, 0.58 g of triphenylphosphine and 1.05 g of 40% toluene solution of diethyl azodicarboxylate were added and stirred for one hour. The mixture solution was poured into water, followed by extraction with ethyl acetate. The combined organic layers were washed with water and a saturated sodium chloride solution, and dried over magnesium sulfate. The reaction mixture was concentrated. The residue was subjected to silica gel column chromatography to give 2-(pyridin-4-yl)-5-(trifluoromethoxy)benzoxazole (hereinafter, referred to as “active compound 12”).

reactant | N-[5-(trifluoromethoxy)-2-hydroxyphenyl]isonicotinamide | 1.96 g | FC(OC=1C=CC(=C(C1)NC(C1=CC=NC=C1)=O)O)(F)F | C13H9F3N2O3
reactant | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
reactant | triphenylphosphine | 1.73 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.26 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | THF | 5 ml | C1CCOC1 | C4H8O
reactant | triphenylphosphine | 1.73 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triphenylphosphine | 0.58 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | water | O | H2O
solvent | toluene | 1.05 g | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 3.15 g | C1(=CC=CC=C1)C | C7H8
product | 2-(pyridin-4-yl)-5-(trifluoromethoxy)benzoxazole | N1=CC=C(C=C1)C=1OC2=C(N1)C=C(C=C2)OC(F)(F)F | C13H7F3N2O2
